US04006145
A solution of 400 g of potassium hydroxide in 3 litres of water is treated at 45° C under a nitrogen atmosphere with 179 ml of thiophenol and the mixture is stirred for 15 minutes. After the addition of 7.1 g of copper powder and 564 g of 5-bromo-2-iodo-benzoic acid, the resulting mixture is heated under reflux for 5 hours and subsequently filtered while hot, acidified while cooling with 420 ml of concentrated hydrochloric acid and extracted with ethyl acetate. The organic solution is washed with water, dried over magnesium sulphate and evaporated under reduced pressure. There is obtained 3-bromo-6-(phenylthio)-benzoic acid of melting point 171°-173° C.

reactant | potassium hydroxide | 400 g | [OH-].[K+]
reactant | thiophenol | 179 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 5-bromo-2-iodo-benzoic acid | 564 g | BrC=1C=CC(=C(C(=O)O)C1)I | C7H4BrIO2
solvent | water | 3 litres | O | H2O
catalyst | copper | 7.1 g | [Cu] | Cu
product | 3-bromo-6-(phenylthio)-benzoic acid | BrC=1C=C(C(=O)O)C(=CC1)SC1=CC=CC=C1 | C13H9BrO2S
